US05446027
Synthesis of 1-[N-(3-hexadecyloxy-2-hydroxypropyl)hexadecanoylamino]-1-deoxy-3-O-α-D-glucopyranosyl-D-glucitol (1c):
A 1-liter eggplant type flask equipped with a reflux condenser was charged with 22.7 g (72 mmol) of 1-amino-3-hexadecyloxy-2-propanol, 23.5 g (69 mmol) of maltose and 350 g of methanol. After stirring the mixture for 20 hours at room temperature under a nitrogen atmosphere, it was heated and stirred at 80° C. for 1 hour. The thus-obtained solution was transferred to a 970-ml autoclave, and 2.26 g of palladium on carbon was added, thereby subjecting the solution to hydrogenolysis at 50° C. for 16 hours under a hydrogen pressure of 100 kg/cm2. The catalyst was removed by filtering the hot mixture, and the filtrate was allowed to cool to form crystals. The crystals were recrystallized again from methanol, thereby obtaining 15.2 g (yield: 33%) of the title compound (2Be) as a colorless solid.

reactant | 1-amino-3-hexadecyloxy-2-propanol | 72 mmol, 22.7 g | NCC(COCCCCCCCCCCCCCCCC)O | C19H41NO2
reactant | maltose | 69 mmol, 23.5 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
catalyst | palladium on carbon | 2.26 g | [Pd] | Pd
solvent | methanol | 350 g | CO | CH4O
product | 1-[N-(3-hexadecyloxy-2-hydroxypropyl)hexadecanoylamino]-1-deoxy-3-O-α-D-glucopyranosyl-D-glucitol | 15.2 g, yield: 33% | C(CCCCCCCCCCCCCCC)OCC(CN(C[C@H](O)[C@@H](O[C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)[C@H](O)[C@H](O)CO)C(CCCCCCCCCCCCCCC)=O)O | C47H93NO13
